US04544667
5-(2-Bromoethyl)-2-sulfamoylbenzo[b]furan
This material is prepared by treatment of 5-(2-methoxyethyl)-2-sulfamoylbenzo[b]furan with boron tribromide.

reactant | 5-(2-methoxyethyl)-2-sulfamoylbenzo[b]furan | COCCC1=CC2=C(OC(=C2)S(N)(=O)=O)C=C1 | C11H13NO4S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 5-(2-Bromoethyl)-2-sulfamoylbenzo[b]furan | BrCCC1=CC2=C(OC(=C2)S(N)(=O)=O)C=C1 | C10H10BrNO3S
